US05958935
N2-(3-Chloro-4.5-dimethoxyphenyl)-N4-(3-methoxyphenyl)-2,4-pyrimidinediamine hydrochloride
from 2-chloro-N-(3-methoxyphenyl)-4-pyrimidineamine (0.50 g, 2.13 mmol) [see Example 92] and 3-chloro-4,5-dimethoxyaniline (0.40 g, 2.13 mmol) to give the title compound (0.55 g) as a white soid m.p. 204-205°. δH (d6DMSO) 11.19 (1H, br s),10.85 (1H, brs), 8.00 (1H, d, J 7.1 Hz), 7.23 (4H, m), 7.12 (1H, d, J 4.4 Hz), 6.75 (1H, m), 6.59 (1H, d, J 7.1 Hz), 3.74 (3H, s), 3.69 (3H, s) and 3.65 (3H, s). MS m/z 387 (M+H)+. The aniline starting material was prepared in a similar manner to the analogous aniline of Example 113, from 1-chloro-2,3-dimethoxy-5-nitrobenzene (1.08 g, 5.82 mmol), to give the desired product (0.85 g) as a white solid m.p. 66-68°. MS m/z 188 (M+H)+. The 1-chloro-2,3-dimethoxy-5-nitrobenzene was prepared by heating a solution of 3-chloro-4,5-dimethoxybenzoic acid (3.50 g, 16.2 mmol) in glacial acetic acid (15 ml) and 70% nitric acid (15 ml) at 600 for 1 h. The reaction was poured onto ice-water and the white precipitate which formed was filtered off, washed with water and dried in vacuo and washed thoroughly with hexane. The hexane washings were evaporated and the residue subjected to column chromatography [silica 20% ethyl acetate-hexane] to give the desired product (1.03 g) as a white solid m.p. 104-105°. MS m/z 217 (M+H)+. The acid used as starting material was prepared according to the method of Y. Ohtani et al. Acta. Chem. Scand., Ser B. B36, 613 (1982).

reactant | 3-chloro-4,5-dimethoxybenzoic acid | 16.2 mmol, 3.50 g | ClC=1C=C(C(=O)O)C=C(C1OC)OC | C9H9ClO4
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-chloro-2,3-dimethoxy-5-nitrobenzene | ClC1=C(C(=CC(=C1)[N+](=O)[O-])OC)OC | C8H8ClNO4
